* IRF7309 resistive-load switching at the tabulated conditions.
.temp 25
.lib ../IRF7309_N.txt
.lib ../IRF7309_P.txt

* N-channel: VDD=10 V, RD=3.8 ohm, RG=6 ohm, VGS drive 0..4.5 V.
V_NDD ndd 0 10
R_ND ndd nd 3.8
V_NDRV ndrv 0 PULSE(0 4.5 5u 1n 1n 10u 25u)
R_NG ndrv ng 6
M_NSW nd ng 0 0 IRF7309_N

* P-channel: VDD=-10 V, RD=4.5 ohm, RG=6 ohm, VGS drive 0..-4.5 V.
V_PDD pdd 0 -10
R_PD pdd pd 4.5
V_PDRV pdrv 0 PULSE(0 -4.5 5u 1n 1n 10u 25u)
R_PG pdrv pg 6
M_PSW pd pg 0 0 IRF7309_P
B_PVD pvd 0 V={-V(pd)}

.options reltol=1e-5 abstol=1e-12 vntol=1e-8 gmin=1e-12
.tran 0 22u 0 100p

.meas TRAN N_TDON TRIG V(ndrv)=0.45 RISE=1 TARG V(nd)=9 FALL=1
.meas TRAN N_TR   TRIG V(nd)=9 FALL=1 TARG V(nd)=1 FALL=1
.meas TRAN N_TDOFF TRIG V(ndrv)=4.05 FALL=1 TARG V(nd)=1 RISE=1
.meas TRAN N_TF   TRIG V(nd)=1 RISE=1 TARG V(nd)=9 RISE=1

.meas TRAN P_TDON TRIG V(pdrv)=-0.45 FALL=1 TARG V(pvd)=9 FALL=1
.meas TRAN P_TR   TRIG V(pvd)=9 FALL=1 TARG V(pvd)=1 FALL=1
.meas TRAN P_TDOFF TRIG V(pdrv)=-4.05 RISE=1 TARG V(pvd)=1 RISE=1
.meas TRAN P_TF   TRIG V(pvd)=1 RISE=1 TARG V(pvd)=9 RISE=1
.end
